US09034866B2
Into a 20-L 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of 4-fluoro-2-hydroxybenzaldehyde (545 g, 3.89 mol, 1.00 equiv) in AcOH (5 L), followed by the addition of Br2 (623 g, 3.90 mol, 1.00 equiv) dropwise with stirring at 0-5° C. The resulting solution was stirred overnight at room temperature, quenched by the addition of 3 L of saturated aqueous Na2SO3 and diluted with 6 L of ice/water. The solids were collected by filtration, washed with 2×1.5 L of water and dried to afford 145 g (crude) of 5-bromo-4-fluoro-2-hydroxybenzaldehyde as a yellow solid.

reactant | 4-fluoro-2-hydroxybenzaldehyde | 3.89 mol, 545 g, 1.00 equiv | FC1=CC(=C(C=O)C=C1)O | C7H5FO2
reactant | Br2 | 3.90 mol, 623 g, 1.00 equiv | BrBr | Br2
solvent | AcOH | 5 L | CC(=O)O | C2H4O2
product | 5-bromo-4-fluoro-2-hydroxybenzaldehyde | 145 g | BrC=1C(=CC(=C(C=O)C1)O)F | C7H4BrFO2
